US03950333
A solution of homocysteamine hydrochloride (22.0 g.) and 4-hydroxymethyl-5-methylimidazole hydrochloride (25.6 g.) in aqueous hydrobromic acid (500 ml.) was heated under reflux for 1 hour. Concentration under reduced pressure, followed by recrystallisation from methanol-isopropyl alcohol afforded 4-methyl-5-[(3-aminopropyl)thiomethyl]imidazole dihydrobromide (24.5 g.), m.p. 200.5°-202.5°.

reactant | homocysteamine hydrochloride | 22.0 g | C(CN)CS.Cl
reactant | 4-hydroxymethyl-5-methylimidazole hydrochloride | 25.6 g | Cl.OCC=1N=CNC1C
reactant | hydrobromic acid | 500 ml | Br | BrH
product | 4-methyl-5-[(3-aminopropyl)thiomethyl]imidazole dihydrobromide | 24.5 g | Br.Br.CC=1N=CNC1CSCCCN | InChI=1S/C8H15N3S.2BrH/c1-7-8(11-6-10-7)5-12-4-2-3-9;;/h6H,2-5,9H2,1H3,(H,10,11);2*1H
